Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Percocet / Demerol / levofloxacin / famciclovir / Sulfamide / 
Augmentin
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
___ with history of costochondritis presents to the ED with 
chief complaint of chest pain. She reports that this morning 
when she woke up she started to notice a dull sternal ache 
consistent with her prior episodes of costochondritis. She ate 
breakfast and went to take a Motrin when the pain suddenly 
became very intense, ___ in severity, poorly characterized, 
and radiated around to her back. She then had one episode of 
non-bloody, non-bilious vomiting- it was the oatmeal that she 
just ate. The pain has never been this severe before, she denies 
any recent strenuous activity, and she reports it feels similar 
to her kidney stones though in a different location. She was 
BIBA and reports that while waiting to be seen the pain has now 
slightly improved to ___. She denies fever, headache, SOB, 
abdominal pain, dysuria, diarrhea, melena, or BRBPR.
Prior to this she was in a GOSGH. No foreign travel. No new 
medications. No insect bites. 
In ER: (Triage Vitals:3 |97.6 |100 |124/61 |18 |100% RA |
Meds Given: None
Fluids given:NS x 2 L 
Labs: 
HCO3 = 21
Lipase = 4390
WBC = 11.6
.
Radiology Studies:
1. Distended gallbladder, without cholelithiasis or sonographic 
evidence of cholecystitis.
2. Dilated CBD, measuring 8 mm, which is nonspecific. If 
clinically indicated, MRCP can be performed for further 
evaluation.
3. Numerous calcified granulomas in the spleen 
Consults called: None

 
Past Medical History:
History of dysplastic nevus 
Nephrolithiasis 
Colon adenoma (colonoscopy due ___ 
History of endometrial cancer, ___ 
Osteoporosis 
Diverticulitis 
Humerus fracture 
PROXY 
Mixed hyperlipidemia 
___ 
Vitamin D insufficiency 
 
Social History:
___
Family History:
Brother  ___ 
Father ___ at age ___ y/o  Lung  Cancer 
No family history of pancreatitis or gall bladder issues.
 
Physical Exam:
CONS: NAD, comfortable appearing  
HEENT: ncat anicteric MMM    
CV: s1s2 rr no m/r/g  
RESP: b/l ae no w/c/r  
GI: +bs, soft, NT, ND, no guarding or rebound  
GU:  No foley
MSK:no c/c/e 2+pulses  
SKIN: no rash  
NEURO: face symmetric speech fluent  
PSYCH: calm, cooperative  
LAD: No cervical LAD
 
Pertinent Results:
___ 06:40AM BLOOD WBC-6.0 RBC-3.67* Hgb-11.3 Hct-33.9* 
MCV-92 MCH-30.8 MCHC-33.3 RDW-14.1 RDWSD-48.7* Plt ___
___ 06:40AM BLOOD Glucose-67* UreaN-9 Creat-0.5 Na-141 
K-4.1 Cl-107 HCO3-18* AnGap-16
___ 06:40AM BLOOD ALT-10 AST-19 AlkPhos-71 Amylase-40 
TotBili-0.5
___ 06:49PM BLOOD Lipase-4390*
___ 06:40AM BLOOD Lipase-___ostochondritis: Patient presented with chest and epigastric 
pain with elevated lipase concerning for pancreatitis. US showed 
mild CBD dilatation, so she had an MRCP to see if gallstones 
were present. MRCP however showed no evidence of pancreatitis 
and no stones. It did show a focally dilated segment IVB 
intrahepatic bile duct with peribiliary 
hyperenhancement/restricted diffusion concerning for focal 
active cholangitis. Her pain had resolved without intervention, 
and repeating lipase and checking amylase showed no elevation. 
This suggests that the original reported elevation was spurious. 
EKG showed no evidence of ischemia. Her known costochondritis 
seems a more likely explanation of the pain.
[ ] Recommend follow-up MRCP in 3 months to ensure resolution. 

Ms. ___ was seen and examined on the day of discharge and is 
clinically stable for discharge today. The total time spent 
today on discharge planning, counseling and coordination of care 
today was greater than 30 minutes.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Diazepam 5 mg PO Q8H:PRN pain/spasm 

 
Discharge Medications:
1.  Diazepam 5 mg PO Q8H:PRN pain/spasm  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Costochondritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

You were admitted to ___ with concern for pancreatitis. It 
appears your elevated lipase was actually erroneous as the 
repeat results were normal. You had an MRCP which also showed a 
normal pancreas. We did find a small spot of inflammation in 
your bile duct of unclear significance. We recommend that you 
have a repeat MRCP in 3 months to see if this spot is still 
there.

Instructions:
- Resume your usual therapy for costochondritis
 
Followup Instructions:
___